US04005208
A solution of 4.0 g. of 9-acetoxyxanthene and 1.9 g. of 4-amino-1-methylpiperidine in 100 ml. of dry benzene was refluxed for 24 hours. The cooled solution was then washed with 5% aqueous sodium carbonate solution and the organic layer was dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. The residue crystallized on triturating with hexane and was recrystallized from hexane to give N-(N-methyl-4-piperidinyl)-9-xanthenylamine, m.p. 96.5°-98° C.

reactant | 9-acetoxyxanthene | C(C)(=O)OC1C2=CC=CC=C2OC=2C=CC=CC12 | C15H12O3
reactant | 4-amino-1-methylpiperidine | NC1CCN(CC1)C | C6H14N2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | N-(N-methyl-4-piperidinyl)-9-xanthenylamine | CN1CCC(CC1)NC1C2=CC=CC=C2OC=2C=CC=CC12 | C19H22N2O
